US07470723B2
To a stirred solution of (3-benzyloxy-phenyl)-(3,5-dimethoxy-phenyl)-methanol (11.51 g, 32.9 mmol) in CH2Cl2 (30 mL) at room temperature was added activated MnO2 powder (13.28 g, 153 mmol) and kept adding 2˜3 equivalents of MnO2 every 3˜5 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give (3-benzyloxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone as a clear oil (10.67 g, 93% yield): 1H NMR (CDCl3) δ 3.82 (s, 6H, OCH3), 5.11 (s, 2H, CH2), 6.67 (t, J=2 Hz, 1H, Ar), 6.92 (d, J=2 Hz, 2H, Ar), 7.17-7.22 (m, 1H, Ar), 7.33-7.45 (m, 8H, Ar). The product was used in the next step without further purification.

reactant | (3-benzyloxy-phenyl)-(3,5-dimethoxy-phenyl)-methanol | 32.9 mmol, 11.51 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(O)C1=CC(=CC(=C1)OC)OC | C22H22O4
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 153 mmol, 13.28 g | O=[Mn]=O
catalyst | MnO2 | 2˜3 equivalents | O=[Mn]=O
product | (3-benzyloxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone | 10.67 g, 93% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(=O)C1=CC(=CC(=C1)OC)OC | C22H20O4
